US07579469B2
Synthesis of 4-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-2,6-dimethylpiperazine-1-carbaldehyde
To a solution of 2-(3,5-dimethylpiperazin-1-ylmethyl)-1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methylpentan-2-ol (20 mg) in methylene chloride (1 mL) at 0° C. was added pyridine (60.7 μL) followed by formic anhydride (2M in methylene chloride, 0.5 mL). (Formic anhydride was freshly prepared by slow addition of one equivalent of 1,3-diisopropylcarbodiimide to 2 equivalents of formic acid in methylene chloride. The resulting suspension was stirred for 1 hour, and filtered). The resulting mixture was stirred overnight for 20 hours, filtered through a cotton plug, poured into half-saturated aqueous sodium bicarbonate solution, and extracted twice with methylene chloride. The combined organic phases were dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by chromatography on silica gel (eluted with 5% methanol-methylene chloride) to give the title compound as a clear oil (19.3 mg).

reactant | 2-(3,5-dimethylpiperazin-1-ylmethyl)-1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methylpentan-2-ol | 20 mg | CC1CN(CC(N1)C)CC(C(F)(F)F)(CC(C)(C)C1=C(C=CC(=C1)F)OC)O | C20H30F4N2O2
reactant | formic anhydride | 2M, 0.5 mL | C(=O)OC=O | C2H2O3
reactant | 1,3-diisopropylcarbodiimide | one equivalent | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | formic acid | 2 equivalents | C(=O)O | CH2O2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 60.7 μL | N1=CC=CC=C1 | C5H5N
product | 4-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-2,6-dimethylpiperazine-1-carbaldehyde | 19.3 mg | FC=1C=CC(=C(C1)C(CC(CN1CC(N(C(C1)C)C=O)C)(C(F)(F)F)O)(C)C)OC | C21H30F4N2O3
